Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
codeine
 
Attending: ___
 
Chief Complaint:
dyspnea
 
Major Surgical or Invasive Procedure:
BiPAP ___
Chest tube (___)
 
History of Present Illness:
Ms. ___ is a ___ y/o F hx of lung adenocarcinoma 
(diagnosed in ___ by the ___ IP team w/intermittent 
hemoptysis, atrial fibrillation (CHADS-VASC of 6) on warfarin 
INR ___, CAD s/p CABG (LIMA-LAD) in ___ and PCI to unknown 
vessel at ___ ___, PVD s/p R CEA, IDDM, HTN, 
COPD and presumed ischemic CHF/cardiomyopathy on home O2 at 
night.

Patient was in her usual state of health until ___, EMS 
was called on ___ due to dyspnea. She was unable to 
provide a history due to respiratory distress and was taken to 
___ where her initial vitals were 98.3F, pulse 135, rr32, 
BP 130/89, O2 sat 88% on RA. These values improved at ___ on 
high flow O2 on non-re-breather. On her initial exam she was in 
respiratory distress, she had rhonchi throughout, she was 
tachycardic, had a benign abdomen, had edema in her extremities. 
They started her on BiPAP in the ED, gave her 40mg IV Lasix, a 
duoneb, and gave her Ceftriaxone 1g/Azithromycin 500mg. She had 
a CXR in the ED (available in LifeImage) which showed right 
upper lung mass and right lower lobe consolidation. 

Her labs at ___ showed:
CBC: 24.1 (baseline ___ <11.1/37.3> 577 (baseline 200s)
On differential: PMNs 68%, Lymphs 14% bands 5%
CHEM7:
131, 3.9, 85, 29, 34, 1.1 (baseline 1.1), glucose 459
Trop T: 0.25

She was then transferred to the ___ ED.

In the ED, initial vitals:  
pulse 109 , BP 127/70, rr 30 ,98% Bipap

In the ED she received 600mg PR aspirin for troponin elevation, 
40mg IV Lasix and 125mg solumedrol. Cardiology was consulted in 
the ED and recommended trending troponins, TTE, ___ dose of home 
BB and to continue sepsis management. They also advised that if 
needed she could have tailored therapy for CHF management. Her 
EKG remained stable from prior w/o evidence of new ischemic 
changes.

On transfer to MICU, vitals were:  
Temp 99.8, HR 99, 108/59, 24, 95% on BIPAP ___ @ 10L O2)

After arrival the patient was weaned from BIPAP, and tolerated 
nasal cannula at 6L O2 @92% comfortably.

Review of systems:  
Denies fever, chills, night sweats, recent weight loss or gain 
(notes she has had stable weight at home @ 180 lbs). Denies 
headache, sinus tenderness, rhinorrhea or congestion. Has+ cough 
and intermittent hemoptysis, has + shortness of breath, or 
wheezing. Denies chest pain, chest pressure, palpitations, or 
weakness. Denies nausea, vomiting, diarrhea, but does have 
intermittent constipation, denies current abdominal pain. Denies 
dysuria, frequency, or urgency. Denies arthralgias or myalgias. 
Denies rashes or skin changes.  
 
Past Medical History:
lung adenocarcinoma (dx ___
atrial fibrillation on Coumadin
CAD s/p CABG (___) and PCI ___
systolic CHF/cardiomyopathy 
PVD s/p R CEA
DM II
HTN
COPD on home O2 QHS

 
Social History:
___
Family History:
Family hx of DM, no known family hx of cancer or respiratory 
disease.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
Vitals: T: 37C BP:106/65 P:103 and regular R: 29 O2:  92% on 6L 
NC
GENERAL: Alert, oriented, speaking in short sentences, no acute 
distress
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple 
LUNGS: Pursed lip breathing. Visible sternotomy scar. Bilateral 
crackles and reduced airway sounds right upper and lower lung 
fields, no wheeze, tachypneic to ___, prolonged I:E ratio 
w/mouth breathing, mild accessory muscle use 
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, mildly distended, non-tender, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 1+ pulses, w/1+ edema to the knees
SKIN: No visible rashes upper/lower extremities
NEURO:  AAOx3, pleasant and cooperative w/exam

DISCHARGE PHYSICAL EXAM:
PHYSICAL EXAM:
VITALS: 98.6  97.5 ___  89(80-90)  ___  
>94%2->2.5L
GENERAL: Alert, oriented, no acute distress, sitting comfortably 
in chair eating
HEENT: Sclerae anicteric, MMM, oropharynx clear  
NECK: Supple, no LAD  
RESP: rales in RLL to mid way up lung, lungs clear to 
auscultation on the left  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
ABD: +BS, soft, nondistended, nontender to palpation. No 
hepatomegaly. 
GU: no foley  
EXT: warm, well perfused, 2+ pulses, no clubbing, 1+ edema  
NEURO: CNs2-12 intact, motor function grossly normal  
 
Pertinent Results:
ADMISSION LABS:
========================
___ 08:45AM BLOOD WBC-25.9*# RBC-3.79* Hgb-10.2* Hct-33.2* 
MCV-88 MCH-26.9 MCHC-30.7* RDW-17.0* RDWSD-53.3* Plt ___
___ 08:45AM BLOOD Neuts-92.0* Lymphs-2.8* Monos-3.2* 
Eos-0.2* Baso-0.3 Im ___ AbsNeut-23.82*# AbsLymp-0.73* 
AbsMono-0.82* AbsEos-0.04 AbsBaso-0.08
___ 08:45AM BLOOD ___ PTT-28.9 ___
___ 08:45AM BLOOD Glucose-439* UreaN-35* Creat-1.1 Na-133 
K-3.9 Cl-90* HCO3-29 AnGap-18
___ 08:45AM BLOOD ALT-12 AST-16 CK(CPK)-39 AlkPhos-143* 
TotBili-0.2
___ 08:45AM BLOOD CK-MB-3 proBNP-3274*
___ 08:45AM BLOOD cTropnT-0.24*
___ 08:45AM BLOOD Albumin-3.3*
___ 08:53AM BLOOD ___ pO2-56* pCO2-45 pH-7.43 
calTCO2-31* Base XS-4
___ 08:45AM URINE Color-Straw Appear-Clear Sp ___
___ 08:45AM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-300 Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 08:45AM URINE RBC-2 WBC-<1 Bacteri-NONE Yeast-NONE 
Epi-0
___ 08:45AM URINE CastHy-1*
___ 02:57PM URINE Streptococcus pneumoniae Antigen 
Detection-PND

OTHER PERTINENT/DISCHARGE LABS:
====================================
___ 04:34AM BLOOD Ret Aut-3.1* Abs Ret-0.12*
___ 08:45AM BLOOD cTropnT-0.24*
___ 03:53PM BLOOD CK-MB-3 cTropnT-0.19*
___ 04:34AM BLOOD CK-MB-3 cTropnT-0.17*
___ 04:34AM BLOOD Albumin-3.3* Calcium-9.4 Phos-3.9 Mg-1.9 
Iron-29*
___ 04:34AM BLOOD calTIBC-307 Ferritn-180* TRF-236
___ 08:53AM BLOOD Lactate-2.3*
___ 02:28PM BLOOD Lactate-2.0
___ 04:51AM BLOOD freeCa-1.15

___ 12:27PM PLEURAL WBC-203* RBC-700* Polys-39* Lymphs-42* 
___ Meso-5* Macro-12* Other-2*
___ 12:27PM PLEURAL TotProt-1.8 Glucose-405 LD(LDH)-95 
Albumin-1.2 Cholest-17

___ 05:05AM BLOOD WBC-16.9* RBC-3.58* Hgb-9.6* Hct-31.5* 
MCV-88 MCH-26.8 MCHC-30.5* RDW-17.2* RDWSD-54.6* Plt ___
___ 05:05AM BLOOD Plt ___
___ 05:05AM BLOOD ___ PTT-27.9 ___
___ 05:05AM BLOOD Glucose-124* UreaN-51* Creat-1.0 Na-143 
K-2.9* Cl-96 HCO3-33* AnGap-17
___ 11:20AM BLOOD ALT-13 AST-22 LD(LDH)-295* AlkPhos-123* 
TotBili-0.2
___ 05:05AM BLOOD Calcium-8.5 Phos-3.5 Mg-1.5*

MICRO:
=================
___ 8:45 am BLOOD CULTURE

   Blood Culture, Routine (Preliminary): 
      GRAM POSITIVE COCCUS(COCCI).    IN PAIRS AND CLUSTERS. 

   Aerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI IN PAIRS AND CLUSTERS. 

___ 8:45 am URINE
                            **FINAL REPORT ___
   URINE CULTURE (Final ___:    NO GROWTH. 

___ - Blood cultures x2 

Legionella Urinary Antigen  (Final ___: 
      NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN.

___ - MRSA screen - PENDING
___ - blood culture - PENDING
___ - blood culture - PENDING

___ 12:27 pm PLEURAL FLUID

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Preliminary): 

   ANAEROBIC CULTURE (Preliminary):

___ 12:27 pm FLUID RECEIVED IN BLOOD CULTURE BOTTLES

   Fluid Culture in Bottles (Pending):

___ 1:59 pm SPUTUM      Source: Expectorated. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      <10 PMNs and >10 epithelial cells/100X field. 
      Gram stain indicates extensive contamination with upper 
respiratory
      secretions. Bacterial culture results are invalid. 
      PLEASE SUBMIT ANOTHER SPECIMEN. 

   RESPIRATORY CULTURE (Final ___: 
      TEST CANCELLED, PATIENT CREDITED. 

PATHOLOGY:
===============
___ - pleural fluid cytology

IMAGING:
================
___ -CXR
1. Interval development of mild pulmonary edema and right lower 
lung 
consolidation concerning for pneumonia. 
2. Rounded mass in the right upper lobe is consistent with known 
malignancy. 

___ - CT Chest w/o contrast
Substantial progression since ___ and ___ of the 
tumor 
infiltration involving more than ___ of the right upper lobe, 
with progressive central adenopathy in both the right hilus and 
mediastinum.  Right upper lobe bronchus is narrowed but not 
occluded. 
  
Progressive cardiomegaly reflected in new, mild pulmonary edema 
accompanied by small to moderate, bilateral pleural effusions, 
and worsening of moderate to severe cardiomegaly, predominantly 
left ventricular and left atrial.  Severe coronary 
atherosclerosis.  Clinical significance is exaggerated by severe 
emphysema. 
  
Mild bilateral lower lobe bronchopneumonia. 

___ - ECHO
Mild symmetric left ventricular hypertrophy with global 
hypokinesis c/w diffuse process (multivessel CAD, toxin, 
metabolic, etc. Moderate pulmonary artery systolic hypertension. 
Mild mitral regurgitation.

___ -CXR
Compared to chest radiographs ___ and one ___. 
New right pigtail pleural drainage catheter projects over the 
right lower 
lateral costal pleural space and there is less right pleural 
effusion.  No 
pneumothorax. 
  
The large, mass like region of consolidation in the right upper 
lung is 
attributable to locally aggressive lung cancer. Mild pulmonary 
edema has 
improved slightly, but small left pleural effusion has 
increased. Moderate to severe cardiomegaly and pulmonary 
vascular congestion persist. 

 
Brief Hospital Course:
___ y/o F hx of lung adenocarcinoma (diagnosed in ___ 
by the ___ IP team w/intermittent hemoptysis, atrial 
fibrillation (CHADS-VASC of 6), CAD s/p CABG (LIMA-LAD) in ___ 
and PCI to unknown vessel at ___ ___, PVD s/p R 
CEA, IDDM, HTN, COPD on home O2 at night, and presumed ischemic 
CHF/cardiomyopathy presenting with  worsening hypoxemia and SOB, 
___ combination of mild CHF exacerbation, COPD exacerbation and 
RLL pneumonia

#RLL Pneumonia: Patient w/RLL consolidation seen on CXR, 
leukocytosis w/left shift, elevated lactate, and hypoxemia along 
with increased sputum production consistent with a PNA. Had 
+MRSA from BAL on ___ but thought to be contaminant at the 
time and not treated since patient asymptomatic. Given her lung 
mass, there was initially concern for postobstructive pneumonia 
with anaerobes, for which she was briefly treated with Flagyl 
(___). Not supported by CT finding. She was treated with 
Vancomycin + Cefepime (___), and switched to doxycycline for 
outpatient MRSA PNA treatment. Duonebs standing q6h. Sputum 
culture was unrevealing. Patient had ___ bottles coag neg staph 
on admission, deemed to be a contaminant; subsequent blood cx 
neg.

# R pleural effusion: Chest CT non-contrast showed right pleural 
effusion >left. Chest tube ___. Pleural fluid c/w transudate 
given Light's criteria; most likely c/w heart failure. 

# acute on chronic systolic heart failure : Patient w/evidence 
of mild volume overload (and BNP>3000) and septicemia, as well 
as transudative pleural effusion c/w CHF exacerbation. Pt also 
has a history of CAD, s/p CABG. Per cards, pt was continued on 
home ASA, statin, nitrate, and restarted on carvedilol at ___ 
home dose, which can be uptitrated as tolerated. Restarted home 
torsemide 40mg BID on ___, but no additional diuresis and held 
home metolazone. TTE c/w global process consistent with 3-vessel 
disease. Recommended follow up with cards as outpatient.

# Type II NSTEMI: Max trop 0.24, which downtrended. Seen by 
cardiology in the ED. No new evidence on EKG of ischemia, but 
given history of CABG was closely monitored.  Most c/w Type II 
NSTEMI (demand ischemia) in the setting of infection and COPD 
exacerbation. 

# COPD Exacerbation: Patient w/hx of COPD. On 2L home O2 at 
night. PNA was likely a trigger. Initially was admitted to ICU 
since she required BiPAP at ED. On arrival to ICU, already on 
NC. Treated with standing ipratropium q6H, albuterol q2H PRN, 
home fluticasone, 5 day prednisone burst (40mg), maintained SpO2 
88-92%. Given 2L day time O2 requirement, discharged on 2L home 
day O2.
 
# Lung Adenocarcinoma RUL: Seen by IP as outpatient ___ 
hemoptysis. Had biopsy showign lung denocarcinoma.  Patient was 
due to see IP on ___, but missed it due to this 
hospitalization. Her diagnosis was conveyed to her in the 
hospital during admission. Staging shows multiple right sided 
regional involved LNs on PET. Stage 1 or 2 adencarcinoma. Made 
outpatient oncologist aware of admission, and she is scheduled 
for f/u with onc on ___.

# Paroxysmal Afib (CHADS-VASC of 6): Stable, currently in sinus 
tachycardia. Warfarin restarted and uptitrated to 4mg given INR 
subtehraputic for 4 days. INR will continue to be followed as 
outpatient by her PCP for ___ goal INR of ___. PCP appointment 
scheduled for ___.

# DM type II: Patient w/hyperglycemia at admission, likely in 
context of steroids received for COPD. Restarted  home lantus, 
started ISS. I/s/o ongoing hyperglycemia, increased from home 
64u to 80U glargine and insulin sliding scale. She completed her 
steroid course ___, and was put back on home insulin regimen. 
Just prior to discharge on ___, she had a milkshake and 
___ meal that her daughter brought. ___ blood glucose was 
found to be >400. 18U nighttime lantus given, recked 1 hour 
later, BS >500. Given 25u with BS down to 440s. Asymptomatic. 
Discharged home with ___ follow-up. 

# Anemia: Chronic. Likely anemia of chronic disease, c/w iron 
studies.

# Gout: Continued allopurinol, with renal dosing 150mg PO daily

# Insomnia: Stable. Continue home trazodone. 

# Depression: Stable. No SI/HI, continued home venlafaxine.

# GERD: Stable. Omeprazole 20mg BID home dose.

# Hypokalemia: K+ intermittently low during hospitalization. 
Repleted with oral and IV potassium. Discharged on home 
supplement.

# Arthritis: Stable. Continued home Oxycodone-Acetaminophen 
(5mg-325mg) ___ TAB PO Q8H:PRN pain/discomfort.

TRANSITIONAL ISSUES:

- At PCP ___: remove suture from chest tube removal, 
check INR given increase in Warfarin from 3.75mg to 4mg QD while 
in hospital, check K+ levels since hypokalemia in hospital

- follow up pending results on pleural fluid

- Carvidelol 6.25mg BID decreased to 3.125mg BID per cardiology 
assessement initially when in CHF exacerbation. Given SBP in 
100-110 on discharge, continued on 3.125mg BID. Set up with 
outpatient cardiology.

- EF<40%, consider starting ___

- To follow up with Onc service ___ as outpatient 
- HCP: ___ ___  
- Code: Full Code  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. Tiotropium Bromide 1 CAP IH DAILY 
3. Carvedilol 6.25 mg PO BID 
4. Docusate Sodium 100 mg PO BID 
5. Fluticasone Propionate NASAL 2 SPRY NU BID 
6. Warfarin 2.5 mg PO 2X/WEEK (MO,TH) 
7. Warfarin 3.75 mg PO 5X/WEEK (___) 
8. Glargine 64 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
9. Torsemide 40 mg PO BID 
10. Atorvastatin 80 mg PO QPM 
11. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
12. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
13. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q8H:PRN 
pain/discomfort 
14. Omeprazole 20 mg PO BID 
15. Potassium Chloride 10 mEq PO BID 
16. Aspirin 81 mg PO DAILY 
17. Venlafaxine XR 75 mg PO DAILY 
18. TraZODone 200 mg PO QHS:PRN insomnia 
19. Metolazone 2.5 mg PO DAILY prn weight >3lbs above baseline 
20. Albuterol Inhaler 2 PUFF IH Q4H:PRN shortness of breath 

 
Discharge Medications:
1. Allopurinol ___ mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 80 mg PO QPM 
4. Carvedilol 3.125 mg PO BID 
5. Docusate Sodium 100 mg PO BID 
6. Fluticasone Propionate NASAL 2 SPRY NU BID 
7. Doxycycline Hyclate 100 mg PO Q12H 
RX *doxycycline hyclate 100 mg 1 tablet(s) by mouth twice a day 
Disp #*7 Tablet Refills:*0
8. Albuterol Inhaler 2 PUFF IH Q4H:PRN shortness of breath 
9. Warfarin 4 mg PO DAILY16 
10. Tiotropium Bromide 1 CAP IH DAILY 
11. Potassium Chloride 10 mEq PO BID 
12. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
13. Metolazone 2.5 mg PO DAILY prn weight >3lbs above baseline 
14. Venlafaxine XR 75 mg PO DAILY 
15. TraZODone 200 mg PO QHS:PRN insomnia 
16. Torsemide 40 mg PO BID 
17. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q8H:PRN 
pain/discomfort 
18. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
19. Omeprazole 20 mg PO BID 
20. Glargine 64 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
COPD exacerbation
Community Acquired Pneumonia with MRSA 
Non ST elevation MI
Acute on chronic systolic heart failure
Acute Kidney Injury
Adenocarcinoma of the Lung
Pleural effusion, transudative

Secondary:
CAD
DM type II, uncontrolled

 
Discharge Condition:
Discharged with suture in place from R sided pleurex. Wound 
clean, dry, intact.
Discharged on 2L O2 during for day time ambulation. Will 
continue home 2L O2 at night.
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,

You were admitted because of difficulty breathing. We gave you 
oxygen and performed imaging of your lungs. We found that you 
had an infection of your lungs (pneumonia) that worsened your 
COPD, as well as a collection of fluid in your lungs which was 
drained with a chest tube. We treated you with antibiotics, 
steroids, and nebulizers to help treat the infection and the 
COPD flair. Please complete your remaining 3 days of doxycycline 
antibiotics at home as instructed.  During your stay you were 
also informed of your diagnosis of lung cancer from a previous 
lung biopsy. Please follow up with the cancer team (oncology) on 
___ for further care.

Your blood sugar was elevated prior to discharge. Please monitor 
your blood sugars more frequently for the next couple of days 
and contact your PCP if your BG <80 or BG >200.

Upon discharge, please weigh yourself every morning, call MD if 
weight goes up more than 3 lbs. Monitor yourself for fevers, 
chills, difficulty breathing, nausea, vomiting, or any other 
concerning symptoms that may be an indicator that the infection 
is worsening. Continue to use 2 Liters of oxygen during the day, 
in addition to your original amount of 2 liters of oxygen at 
night.

Please note that your warfarin dose was changed in the hospital 
to 4mg every day by mouth. Please follow up with your primary 
care physician on ___, ___ at 9am to have your INR 
checked, along with your potassium (which was low during your 
hospitalization), and have the stitch where the chest tube was 
placed removed.

Your home dose of carvedilol for your blood pressure was also 
cut in half per cardiology. Please set up care with a 
cardiologist once you leave the hospital (you will be receiving 
a call from the hospital to arrange this) to discuss the doses 
for you heart medications. 
 
Followup Instructions:
___